US04355040
1 g of 1-benzyl-4-chloro-2-(4-n-butoxyphenyl)imidazole-5-acetic acid was boiled in 14 ml of 48% hydrobromic acid for 2 hours, and addition of 15 ml of water, followed by allowing the solution to stand, resulted in crystals deposited. Recrystallization of the crystals from aqueous ethanol yielded 0.5 g of 1-benzyl-4-chloro-2-(4-hydroxyphenyl)imidazole-5-acetic acid as colorless, prism-formed crystals, m.p. 140°-145° C.

reactant | 1-benzyl-4-chloro-2-(4-n-butoxyphenyl)imidazole-5-acetic acid | 1 g | C(C1=CC=CC=C1)N1C(=NC(=C1CC(=O)O)Cl)C1=CC=C(C=C1)OCCCC | C22H23ClN2O3
reactant | water | 15 ml | O | H2O
solvent | hydrobromic acid | 14 ml | Br | BrH
product | 1-benzyl-4-chloro-2-(4-hydroxyphenyl)imidazole-5-acetic acid | 0.5 g | C(C1=CC=CC=C1)N1C(=NC(=C1CC(=O)O)Cl)C1=CC=C(C=C1)O | C18H15ClN2O3
